US05714438
4-Chloro-6-trifluoromethylpyrimidine (1.10 g, 6.02 mmol) in THF (15 ml) was added to a solution of lithium diisopropyl amide (LDA) (prepared from n-BuLi (3.7 ml, 5.9 mmol, 1.6M in hexanes) added to diisopropylamine (820 ul, 591 mg, 5.84 mmol) in THF (30 ml) at -78° C., allowing to warm to room temperature for 30 minutes, and re-cooling to -78° C.) at -78° C. The solution turned brown and was stirred for 10 minutes. Then 2-chloro-4-methoxypyrimidine-5-carboxaldehyde (0.96 g, 5.56 mmol) in THF (25 ml) was added dropwise and allowed to stir at -78° C. for 1 hour. The solution was quenched at -78° C. with 30% aqueous HOAc, diluted with water and extracted with EtOAc (3 times). The combined extracts were washed with brine (sat.), dried (MgSO4), filtered and concentrated in vacuo to give 1.61 g of crude product. Preparative radial chromatography (SiO2 ; hexane/EtOAc gradient elution) gave 190 mg (21% based on 530 mg of recovered starting material) of 1-(4-trifluoromethyl-6-chloropyrimidin-5-yl)-1-(2-chloro-4-methoxypyrimidin-5-yl)methanol.

reactant | 4-Chloro-6-trifluoromethylpyrimidine | 6.02 mmol, 1.10 g | ClC1=NC=NC(=C1)C(F)(F)F | C5H2ClF3N2
reactant | lithium diisopropyl amide | 5.9 mmol, 1.6M, 3.7 ml, 591 mg | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-chloro-4-methoxypyrimidine-5-carboxaldehyde | 5.56 mmol, 0.96 g | ClC1=NC=C(C(=N1)OC)C=O | C6H5ClN2O2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 1-(4-trifluoromethyl-6-chloropyrimidin-5-yl)-1-(2-chloro-4-methoxypyrimidin-5-yl)methanol | 190 mg, 21% | FC(C1=NC=NC(=C1C(O)C=1C(=NC(=NC1)Cl)OC)Cl)(F)F | C11H7Cl2F3N4O2
